US05405851
A solution of ethyl 4-(4-nitrophenyl)-4-oxobutyrate (1.4 g, 5.6 mmol) and 10% palladium on carbon (0.18 g) in ethanol (50 ml) was shaken under hydrogen (50 psi) for 2 hours then filtered and concentrated in vacuo. The residue was absorbed onto silica gel (5 g) from an ethyl acetate solution and purified by chromatography on silica gel (100 g) eluting with ethyl acetate:hexane (1:2) to give ethyl 4-(4-aminophenyl)-4-oxobutyrate (0.38 g) as a white solid. 1H NMR (DMSO-d6, 300 MHz) δ: 1.17 (t, J=7 Hz, 3H, CH3), 2.56 (t, J=6.5 Hz, 2H, CH2), 3.10 (t, J=6.5 Hz, 2H, CH2), 4.04 (q, J=7 Hz, 2H, ester CH2), 6.04 (br s, 2H, NH2), 6.57 (d, J=9 Hz, 2H, Ar), 7.69 (d, J=9 Hz, 2H, Ar). Anal. Calculated for C12H15NO3 : C, 65.14; H, 6.83; N, 6.33. Found: C, 65.23; H, 6.85; N, 6.32.

reactant | ethyl 4-(4-nitrophenyl)-4-oxobutyrate | 5.6 mmol, 1.4 g | [N+](=O)([O-])C1=CC=C(C=C1)C(CCC(=O)OCC)=O | C12H13NO5
catalyst | palladium on carbon | 0.18 g | [Pd] | Pd
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl 4-(4-aminophenyl)-4-oxobutyrate | 0.38 g | NC1=CC=C(C=C1)C(CCC(=O)OCC)=O | C12H15NO3
